US05849759
To 2-methyl-6-hydroxy-5-(N-(tert-butoxycarbonyl)piperidin-4-yloxy)-1-(4-cyanonaphth-1-yl)methylbenzimidazole (2.8 g) in THF (50 mL) was first added N-benzyloxycarbonyl-4-hydroxypiperidine (1.7 g), PPh3 (1.9 g), and then DEAD (1.2 mL) in a dropwise fashion. After stirring at ambient temperature for 1 hour the solvent was removed and the residue was separated by silica gel chromatography (hexane/ethyl acetate, gradient) to afford 2-methyl-6-(N-(benzyloxycarbonyl)piperidin-4-yloxy)-5-(N-(tert-butoxycarbonyl)piperidin-4-yloxy)-1-(4-cyanonaphth-1-yl)methylbenzimidazole.

reactant | 2-methyl-6-hydroxy-5-(N-(tert-butoxycarbonyl)piperidin-4-yloxy)-1-(4-cyanonaphth-1-yl)methylbenzimidazole | 2.8 g | CC1=NC2=C(N1CC1=CC=C(C3=CC=CC=C13)C#N)C=C(C(=C2)OC2CCN(CC2)C(=O)OC(C)(C)C)O | C30H32N4O4
reactant | N-benzyloxycarbonyl-4-hydroxypiperidine | 1.7 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)O | C13H17NO3
reactant | PPh3 | 1.9 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DEAD | 1.2 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-methyl-6-(N-(benzyloxycarbonyl)piperidin-4-yloxy)-5-(N-(tert-butoxycarbonyl)piperidin-4-yloxy)-1-(4-cyanonaphth-1-yl)methylbenzimidazole | CC1=NC2=C(N1CC1=CC=C(C3=CC=CC=C13)C#N)C=C(C(=C2)OC2CCN(CC2)C(=O)OC(C)(C)C)OC2CCN(CC2)C(=O)OCC2=CC=CC=C2 | C43H47N5O6
